US04937268
[4-[(6-Bromohexyl)oxy]butoxy]benzene
4-Phenoxy-1-butanol (4 g), 1,6-dibromohexane (6.7 ml), TAB (0.8 g) and sodium hydroxide (9.4 g in 18 ml water) were stirred at room temperature under nitrogen for 20 h. Water (80 ml) was added and the mixture extracted with diethyl ether (3×100 ml). The combined organic extracts were washed with water (50 ml), brine (50 ml), dried and evaporated to give a colourless liquid. This was applied to an FCC column and eluted with cyclohexane (2 l) and then with System A (1:40). The resulting oil was distilled to give the title compound (3.4 g) as a colourless oil b.p. 150°/3.5 mmHg T.l.c. (System A 1:6) Rf 0.3.

reactant | 4-Phenoxy-1-butanol | 4 g | O(C1=CC=CC=C1)CCCCO | C10H14O2
reactant | 1,6-dibromohexane | 6.7 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 18 ml, 9.4 g | [OH-].[Na+]
solvent | Water | 80 ml | O | H2O
product | [4-[(6-Bromohexyl)oxy]butoxy]benzene | 3.4 g | BrCCCCCCOCCCCOC1=CC=CC=C1 | C16H25BrO2
